US07572809B2
a) Preparation of 6-methoxy-3-(1H-pyrazol-3-ylamino)-2H-isoquinolin-1-one
2-Cyanomethyl-4-methoxy-benzoic acid (1.91 g, 0.01 mol), 3-amino-pyrazole (1 g, 0.01 mol) and acetic acid (15 ml) were sealed in a bottle (20 ml). The mixture was heated at 130° C. for 20 minutes under microwave irradiation. The mixture was concentrated and the residue was dissolved in 5 ml MeOH. The solution was added dropwise to 200 ml water. After stirred for 1 hour, solid was collected and dried to give product (2.24 g, 82% yield). LC-MS:

reactant | 2-Cyanomethyl-4-methoxy-benzoic acid | 0.01 mol, 1.91 g | C(#N)CC1=C(C(=O)O)C=CC(=C1)OC | C10H9NO3
reactant | 3-amino-pyrazole | 0.01 mol, 1 g | NC1=NNC=C1 | C3H5N3
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 6-methoxy-3-(1H-pyrazol-3-ylamino)-2H-isoquinolin-1-one | 2.24 g, 82% yield | COC=1C=C2C=C(NC(C2=CC1)=O)NC1=NNC=C1 | C13H12N4O2
